US09422244B2
1.42 g (1 mol equiv.) 3,N-Diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester and 1.43 g (1.05 mol equiv.) 2-chlorobenzenesulfonamide were added to 20 mL acetonitrile. The reaction mixture was refluxed overnight and volatiles were removed in vacuo. The residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. The residue obtained after purification by flash chromatography on silica gel (Et2O) was triturated with diisopropyl ether to afford 2.08 g (81%) 2-chloro-N-[ethylamino-(3-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-benzenesulfonamide. 1HNMR (400 MHz, CDCl3) δ 1.15 (t, J=7.3 Hz, 3H), 1.17 (t, J=7.3 Hz, 3H), 2.38 (q, J=7.3 Hz, 2H), 2.80 (t, J=9.8 Hz, 2H), 3.44-3.53 (m, 2H), 4.11 (t, J=9.8 Hz, 2H), 6.73 (br.s., 1H), 7.33 (dt, J=7.6, 2.0 Hz, 1H), 7.38 (dt, J=7.6, 2.0 Hz, 1H), 7.46 (dd, J=7.6, 2.0 Hz, 1H), 8.17 (dd, J=7.6, 2.0 Hz, 1H).

reactant | 3,N-Diethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1 mol, 1.42 g | CSC(=NCC)N1N=C(CC1)CC | C9H17N3S
reactant | 2-chlorobenzenesulfonamide | 1.05 mol, 1.43 g | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-chloro-N-[ethylamino-(3-ethyl-4,5-dihydro-pyrazol-1-yl)-methylene]-benzenesulfonamide | 2.08 g, 81% | ClC1=C(C=CC=C1)S(=O)(=O)N=C(N1N=C(CC1)CC)NCC | C14H19ClN4O2S
